US04469872
Following the procedure of Example 1, 2-[4-(4-trifluoromethylphenoxy)phenoxy]propanal is reacted with the lithium salt of 2-butanone N,N-dimethylhydrazone to give 5-hydroxy-6-[4-(4-trifluoromethylphenoxy)phenoxy]-3-heptanone N,N-dimethylhydrazone (cpd. 9, Table A). This hydrazone is then hydrolyzed to 5-hydroxy-6-[4-(4-trifluoromethylphenoxy)phenoxy]-3-heptanone (cpd. 9, Table B).

reactant | 2-[4-(4-trifluoromethylphenoxy)phenoxy]propanal | FC(C1=CC=C(OC2=CC=C(OC(C=O)C)C=C2)C=C1)(F)F | C16H13F3O3
reactant | lithium | [Li] | Li
reactant | 2-butanone N,N-dimethylhydrazone | CN(N=C(C)CC)C | C6H14N2
product | 5-hydroxy-6-[4-(4-trifluoromethylphenoxy)phenoxy]-3-heptanone N,N-dimethylhydrazone | CN(N=C(CC)CC(C(C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)O)C | C22H27F3N2O3
